US07320994B2
1-(3,5-bis-trifluoromethyl-benzyl)-4-[1-(2-chloro-benzyl)-1H-imidazol-2-yl]-5-phenyl-1H-[1,2,3]triazole
To a solution of 1-(3,5-bis-trifluoromethyl-benzyl)-4-[1-(2-chloro-benzyl)-4,5-dihydro-1H-imidazol-2-yl]-5-phenyl-1H-[1,2,3]triazole (300 mg, 0.53 mmol) in xylenes (2.66 mL) add 10% Pd/C (300 mg). Heat to 137° C. After 72 hours, cool reaction, filter, and concentrate. Purify by chromatography using a gradient of 50:1 to 10:1 CHCl3/MeOH to afford the title compound: MS (IS) 562.0 (M+1).

reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-4-[1-(2-chloro-benzyl)-4,5-dihydro-1H-imidazol-2-yl]-5-phenyl-1H-[1,2,3]triazole | 0.53 mmol, 300 mg | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N(CCN2)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H20ClF6N5
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 1-(3,5-bis-trifluoromethyl-benzyl)-4-[1-(2-chloro-benzyl)-1H-imidazol-2-yl]-5-phenyl-1H-[1,2,3]triazole | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N(C=CN2)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C27H18ClF6N5
